US09278973B2
To a solution of 3-ethyl-1H-1,2,4-triazol-5-amine (150 mg, 0.89 mmol) in diphenyl ether (2 ml) was added ethyl 3-(1H-benzo[d][1,2,3]triazol-5-yl)-3-oxopropanoate (500 mg, 2.15 mmol) and TsOH (8 mg, 0.04 mmol), and the reaction mixture was stirred overnight at 130° C. The solids were collected by filtration and washed with methanol (20 ml) to afford 5-(1H-benzo[d][1,2,3]triazol-5-yl)-2-ethyl-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one as a off-white solid (66.4 mg, 18%).

reactant | 3-ethyl-1H-1,2,4-triazol-5-amine | 0.89 mmol, 150 mg | C(C)C1=NNC(=N1)N | C4H8N4
reactant | ethyl 3-(1H-benzo[d][1,2,3]triazol-5-yl)-3-oxopropanoate | 2.15 mmol, 500 mg | N1N=NC2=C1C=CC(=C2)C(CC(=O)OCC)=O | C11H11N3O3
reactant | TsOH | 0.04 mmol, 8 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | diphenyl ether | 2 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 5-(1H-benzo[d][1,2,3]triazol-5-yl)-2-ethyl-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | 66.4 mg, 18% | N1N=NC2=C1C=CC(=C2)C=2NC=1N(C(C2)=O)N=C(N1)CC | C13H11N7O
